### PR TITLE
Finish function cases

### PR DESCRIPTION
**Pull request by Ailrun**
C.f. #113

### CODE REVIEW

File: theories/LibTactics.v [hunk 1]
```diff
@@ -88,7 +88,8 @@ Ltac find_dup_hyp tac non :=
   | [ H : ?X, H' : ?X |- _ ] =>
     not_let_bind H;
     not_let_bind H';
-    lazymatch type of X with
+    let T := type of X in
+    lazymatch eval cbv in T with
```
Comment (HuStmpHrrr) [inline theories/LibTactics.v:92]: is this necessary? cbv is very slow

File: theories/Core/Syntactic/Corollaries.v [hunk 2]
```diff
@@ -165,3 +165,27 @@ Proof.
...
+  assert {{ Γ, A ⊢s Wk : Γ }} by mauto 4.
+  assert {{ Δ, A[σ] ⊢s q σ : Γ, A }} by mauto 4.
+  assert {{ Δ, A[σ] ⊢s Wk∘q σ ≈ σ∘Wk : Γ }} by mauto 4.
+  assert {{ Δ' ⊢s τ,,M : Δ, A[σ] }} by mauto 4.
+  assert {{ Δ, A[σ] ⊢s Wk : Δ }} by mauto 4.
+  assert {{ Δ' ⊢s Wk∘(τ,,M) ≈ τ : Δ }} by mauto 4.
+  assert {{ Δ' ⊢s Wk∘(q σ∘(τ,,M)) ≈ (Wk∘q σ)∘(τ,,M) : Γ }} by mauto 4.
+  assert {{ Δ' ⊢s Wk∘(q σ∘(τ,,M)) ≈ (σ∘Wk)∘(τ,,M) : Γ }} by mauto 4.
+  assert {{ Δ' ⊢s (σ∘Wk)∘(τ,,M) ≈ σ∘(Wk∘(τ,,M)) : Γ }} by mauto 4.
+  assert {{ Δ' ⊢s (σ∘Wk)∘(τ,,M) ≈ σ∘τ : Γ }} by mauto 4.
```
Comment (HuStmpHrrr) [inline theories/Core/Syntactic/Corollaries.v:186]: why is this chain necessary? sound autorewritable to me. especially with line 182.

File: theories/Core/Soundness/UniverseCases.v [hunk 3]
```diff
@@ -7,19 +7,39 @@ From Mcltt.Core.Soundness Require Import LogicalRelation Realizability.
...
+  assert {{ Δ ⊢s σ : Γ }} by mauto 3.
+  split; mauto 4.
+  eexists; repeat split; mauto.
   intros.
-  econstructor; mauto.
-  repeat split; mauto.
-  do 2 eexists; split; mauto.
+  match_by_head1 glu_univ_elem invert_glu_univ_elem.
+  apply_predicate_equivalence.
   cbv.
```
Comment (HuStmpHrrr) [inline theories/Core/Soundness/UniverseCases.v:41]: what does cbv do here?

File: theories/Core/Soundness/TermStructureCases.v [hunk 4]
```diff
@@ -7,43 +7,70 @@ From Mcltt.Core.Soundness Require Import LogicalRelation Realizability.
...
+Lemma presup_typ_glu_rel_exp : forall {Γ M A},
+    {{ Γ ⊩ M : A }} ->
+    exists i, {{ Γ ⊩ A : Type@i }}.
+Proof.
+  intros * []%presup_glu_rel_exp.
+  eassumption.
+Qed.
+
+#[export]
+Hint Resolve presup_typ_glu_rel_exp : mcltt.
```
Comment (HuStmpHrrr) [inline theories/Core/Soundness/TermStructureCases.v:40]: is this hint ever used?

File: theories/Core/Soundness/NatCases.v [hunk 5]
```diff
@@ -50,37 +63,126 @@ Lemma glu_rel_exp_succ : forall {Γ M},
 Proof.
   intros * HM.
   assert {{ Γ ⊢ M : ℕ }} by mauto.
-  destruct HM as [Sb [? [i]]].
+  cbv in HM.
```
Comment (HuStmpHrrr) [inline theories/Core/Soundness/NatCases.v:66]: have you tried cbn? it doesn't give what you want?

File: theories/Core/Soundness/FunctionCases.v [hunk 6]
```diff
@@ -34,162 +41,291 @@ Proof.
...
+  assert {{ Δ ⊢ B[(Id,,N)][σ] ≈ B[σ,,N[σ]] : Type@i }} by mauto 3.
+  assert {{ Δ ⊢ (M N)[σ] ≈ M[σ] N[σ] : B[σ,,N[σ]] }} by mauto 3.
+  assert {{ Δ ⊢ (M N)[σ] ≈ M[σ] N[σ] : B[Id,,N][σ] }} as -> by mauto 3.
+  assert {{ Δ ⊢ M[σ][Id] ≈ M[σ] : (Π A B)[σ] }} by mauto 2.
+  assert {{ Δ ⊢ M[σ][Id] ≈ M[σ] : Π A[σ] B[q σ] }} by mauto 3.
+  assert {{ Δ ⊢ M[σ][Id] N[σ] ≈ M[σ] N[σ] : B[q σ][Id,,N[σ]] }} by mauto 3.
+  assert {{ Δ ⊢ M[σ][Id] N[σ] ≈ M[σ] N[σ] : B[Id,,N][σ] }} as <- by mauto 3.
+  assert {{ Δ ⊢ B[(Id,,N)][σ] ≈ B[(σ∘Id),,N[σ]] : Type@(max i j) }} as -> by mauto 3 using lift_exp_eq_max_left.
+  assert {{ Δ ⊢ OT[Id,,N[σ]] ® OP n equiv_n }} by (eapply glu_univ_elem_trm_typ; eassumption).
+  assert {{ Δ ⊢ B[(σ∘Id),,N[σ]] ≈ OT[Id,,N[σ]] : Type@(max i j) }} as ->
```
Comment (HuStmpHrrr) [inline theories/Core/Soundness/FunctionCases.v:325]: can't autorewrite help at least make some goals easy? this is more verbose than Agda.

File: theories/Core/Soundness/FunctionCases.v [hunk 7]
```diff
@@ -34,162 +41,291 @@ Proof.
...
+  handle_functional_glu_univ_elem.
+  assert {{ Δ ⊢s σ : Γ }} by mauto 3.
+  assert {{ Γ ⊢s Id,,N : Γ, A }} by mauto 2.
+  assert {{ Δ ⊢ N[σ] : A[σ] }} by mauto 3.
+  assert {{ Δ ⊢s σ ≈ σ∘Id : Γ }} by mauto 3.
+  assert {{ Δ ⊢s σ,,N[σ] ≈ (σ∘Id),,N[σ] : Γ, A }} by mauto 3.
+  assert {{ Δ ⊢s (Id,,N)∘σ ≈ σ,,N[σ] : Γ, A }} by mauto 2.
+  assert {{ Δ ⊢s (Id,,N)∘σ ≈ (σ∘Id),,N[σ] : Γ, A }} by mauto 2.
+  assert {{ Δ ⊢ B[(Id,,N)][σ] ≈ B[(Id,,N)∘σ] : Type@i }} by mauto 2.
+  assert {{ Δ ⊢ B[(Id,,N)∘σ] ≈ B[(σ∘Id),,N[σ]] : Type@i }} by mauto 3.
```
Comment (HuStmpHrrr) [inline theories/Core/Soundness/FunctionCases.v:311]: for example, the two equivalences above can be merged into one and proved by `bulky_rewrite`, I think.

File: theories/LibTactics.v (hunk 1 above)
Comment (Ailrun) [reply theories/LibTactics.v:92]: Yes, otherwise it cannot handle applications of `glu_typ_pred` or so.

File: theories/Core/Syntactic/Corollaries.v (hunk 2 above)
Comment (Ailrun) [reply theories/Core/Syntactic/Corollaries.v:186]: That might be the case. Let me check.

File: theories/Core/Soundness/NatCases.v (hunk 5 above)
Comment (Ailrun) [reply theories/Core/Soundness/NatCases.v:66]: Oh I meant to use cbn. My mistake.

File: theories/Core/Soundness/FunctionCases.v (hunk 6 above)
Comment (Ailrun) [reply theories/Core/Soundness/FunctionCases.v:325]: I wrote things in this way mostly because autorewriting is often very slow for what I want, but let me check if this can be done fast enough.

File: theories/Core/Soundness/TermStructureCases.v (hunk 4 above)
Comment (Ailrun) [reply theories/Core/Soundness/TermStructureCases.v:40]: Yes, for example the assertion on line 60 of this file.

File: theories/Core/Soundness/FunctionCases.v (hunk 7 above)
Comment (Ailrun) [reply theories/Core/Soundness/FunctionCases.v:311]: Each of them are used later separately, and replacing all usages with `bulky_rewrite` (or `autorewrite with mcltt`) takes much longer than this (like, by magnitudes), unfortunately.

File: theories/LibTactics.v (hunk 1 above)
Comment (HuStmpHrrr) [reply theories/LibTactics.v:92]: the thing is inserting cbv here will also unfold too much hypotheses in other forms too. have you tried cbn and see if it works?

Comment (Ailrun) [reply theories/LibTactics.v:92]: Sure. Or `unify` could also work?
